US06111110
1,3-bis-trimethylsilyloxy propandiol (38.5 grams, 175 mmol, prepared from 1,3-propanediol, triethylamine, and chlorotrimethyl silane in tetrahydrofuran) was slowly added to a stirring solution of trimethylsilyl trifluoromethanesulfonate (0.5 mL, 2.6 mmol) in methylene chloride (100 mL, -70° C.), while keeping the reaction temperature between -70° and -60° C. The solution was allowed to stir for 10 minutes at -70° C. A solution of 6-bromo-2-tetralone (35.5 grams, 158 mmol) in methylene chloride (100 mL) was slowly added over a 10 minute period. The resulting reaction mixture was allowed to warm slowly to 15° C. over 15 hours, after which time thin layer chromatography (55:45 diethyl ether:hexanes) and high pressure liquid chromatography showed complete consumption of the starting tetralone. The reaction was quenched with saturated sodium bicarbonate (200 mL) and the layers were separated. The aqueous layer was extracted with methylene chloride (50 mL). The combined methylene chloride solution was washed with brine (200 mL), dried with sodium sulfate, and concentrated at reduced pressure to a gold colored residue. This was filtered through 300 grams of silica gel and eluted with 3:1 hexanes/ethyl acetate. The filtrate was concentrated at reduced pressure and the product recrystallized from hexanes to obtain 33.5 grams (75% yield) of 6-bromo-2-tetralone propylene ketal as white crystals (NMR, MS). Calculated for C13H15O2Br: C, 55.14; H, 5.34. Found C, 55.05; H, 5.52.

reactant | 1,3-bis-trimethylsilyloxy propandiol | 175 mmol, 38.5 grams | C[Si](OC(CCO[Si](C)(C)C)(O)O)(C)C | C9H24O4Si2
reactant | 6-bromo-2-tetralone | 158 mmol, 35.5 grams | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | trimethylsilyl trifluoromethanesulfonate | 2.6 mmol, 0.5 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
product | 6-bromo-2-tetralone propylene ketal | 33.5 grams, 75% yield | C1C(C)OC2(CC3=CC=C(C=C3CC2)Br)O1 | C13H15BrO2
